US07592457B2
2-amino-4,6-dibromo-benzoic acid methyl ester
To a solution of 2-amino-4,6-dibromo-benzoic acid (17.5 g, 59.3 mmol) in ether (150 mL) and ethyl acetate (15 mL) kept in an ice bath was added a solution of diazomethane (approximately 70.0 mmol, prepared from diazald 118.6 mmol) in ether (500 mL) over 1 hour. The reaction mixture was then stirred in an ice water bath for 2 hours. The resultant was treated with acetic acid 10 mL and washed with 2N NaHCO3 and brine. The organic layer was concentrated in vacuo. The residue was purified by chromatography (hexane:EtOAc=8:1) to give the objective compound (15.3 g, 83%) as brown solid: 1H NMR (200 MHz, CDCl3) δ 3.92 (s, 3H), 4.92 (br s, 2H), 6.80 (d, J=7.73, 2H), 7.11 (d, J=7.73, 1H); MS(EI) m/e 307 [M+].

reactant | 2-amino-4,6-dibromo-benzoic acid | 59.3 mmol, 17.5 g | NC1=C(C(=O)O)C(=CC(=C1)Br)Br | C7H5Br2NO2
reactant | diazomethane | approximately 70.0 mmol | [N+](=[N-])=C | CH2N2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 500 mL | CCOCC | C4H10O
product | 2-amino-4,6-dibromo-benzoic acid methyl ester | 15.3 g, 83% | COC(C1=C(C=C(C=C1Br)Br)N)=O | C8H7Br2NO2
